US08466282B2
Tert-butyl (3R,5S)-3-(1-hydroxy-2-methoxyethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate
tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-oxirane-2-ylpiperidine-1-carboxylate (200 mg) was dissolved in methanol (5 ml), 28% sodium methylate-methanol solution was added, and the mixture was stirred at 70° C. for 6 hr. The solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:1-1:0) was concentrated under reduced pressure to give the object product (157 mg).

reactant | tert-Butyl (3S,5R)-3-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]-5-oxirane-2-ylpiperidine-1-carboxylate | 200 mg | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CN(C[C@@H](C2)C2OC2)C(=O)OC(C)(C)C)CC(C)C | C29H44N4O5
reactant | sodium methylate methanol | C[O-].[Na+].CO
solvent | methanol | 5 ml | CO | CH4O
product | Tert-butyl (3R,5S)-3-(1-hydroxy-2-methoxyethyl)-5-[{[1-(4-methoxybutyl)-1H-benzimidazol-2-yl]carbonyl}(2-methylpropyl)amino]piperidine-1-carboxylate | 157 mg | OC(COC)[C@H]1CN(C[C@H](C1)N(CC(C)C)C(=O)C1=NC2=C(N1CCCCOC)C=CC=C2)C(=O)OC(C)(C)C | C30H48N4O6
